US09238644B2
(a) 2-(2-Iodophenyl)propanamide (I13)
A solution of 2-(2-iodophenyl)propanoic acid (9.73 g, 35.2 mmol) in THF (24 mL), DMF (4 mL) and DIPEA (30.7 mL, 0.176 mol) was stirred with HOBt (7.14 g, 52.9 mmol) and EDCl.HCl (10.1 g, 52.9 mmol) for 10 minutes at room temperature under N2. Ammonium carbonate (16.9 g, 0.176 mol) was then added and the reaction mixture was stirred overnight at room temperature. The volatiles were removed under reduced pressure before sat. aq. NaHCO3 (100 mL) was added to the residue. The aqueous phase was extracted with EtOAc (3×100 mL) and the combined organics were washed with brine, dried over MgSO4 and the volatiles were removed in vacuo to give the impure title compound I13 as a pale yellow solid (˜95% purity, 10.05 g, >95%). LCMS-D: rt 3.12 min; m/z 276 [M+H]+.

reactant | 2-(2-iodophenyl)propanoic acid | 35.2 mmol, 9.73 g | IC1=C(C=CC=C1)C(C(=O)O)C | C9H9IO2
reactant | DIPEA | 0.176 mol, 30.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 52.9 mmol, 7.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 52.9 mmol, 10.1 g | Cl | ClH
reactant | Ammonium carbonate | 0.176 mol, 16.9 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-Iodophenyl)propanamide | IC1=C(C=CC=C1)C(C(=O)N)C | C9H10INO
